US08748415B2
To a solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (4.23 g, 10 mmol) in a mixture of CH2Cl2 (50 ml) and MeOH (5 ml) was added (trimethylsilyl)diazomethane (5.00 ml, 10.00 mmol). The solution was stirred at rt for 2 h under nitrogen. LC/MS showed no SM left. The reaction mixture was concentrated to afford methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (4.37 g, 100%). The compound was used in the next step without further purification. LCMS: m/e 559.4 (MH+), 3.29 min (method 2). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.95 (m, J=8.3 Hz, 2H), 7.22 (m, J=8.6 Hz, 2H), 5.22-5.39 (m, 1H), 4.72 (d, J=2.0 Hz, 1H), 4.49-4.67 (m, 1H), 3.94 (s, 3H), 3.87 (s, 1H), 3.38 (d, J=10.6 Hz, 1H), 2.37-2.60 (m, 1H), 2.05-2.21 (m, 1H), 1.96 (d, J=11.1 Hz, 2H), 1.90 (d, J=13.1 Hz, 1H), 1.61-1.82 (m, 7H), 1.55 (br. s., 8H), 1.37-1.52 (m, 2H), 1.18-1.37 (m, 4H), 1.08-1.18 (m, 3H), 1.04 (s, 3H), 1.00 (s, 3H), 0.95 (s, 6H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 10 mmol, 4.23 g | OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C37H52O3
reactant | (trimethylsilyl)diazomethane | 10.00 mmol, 5.00 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 ml | CO | CH4O
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 4.37 g, 100% | OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C38H54O3
